US08389547B2
Step 2: 1,1,1,7,7,7-Hexafluoroheptan-4-one
1,1,1,7,7,7-Hexafluoroheptan-4-ol (1.4 g, 6.25 mmol) was dissolved in CH2Cl2 (12 mL) and pyridinium chlorochromate (PCC) (1.48 g, 6.87 mmol) was added. The mixture was stirred for 4 h. Additional PCC (800 mg) was added and the mixture stirred for 1 h. The mixture was filtered through celite and silica, washing with DCM. The resulting pale yellow solution was evaporated at room temperature to afford the title compound.

reactant | 1,1,1,7,7,7-Hexafluoroheptan-4-ol | 6.25 mmol, 1.4 g | FC(CCC(CCC(F)(F)F)O)(F)F | C7H10F6O
reactant | pyridinium chlorochromate | 6.87 mmol, 1.48 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | PCC | 800 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | 1,1,1,7,7,7-Hexafluoroheptan-4-one | FC(CCC(CCC(F)(F)F)=O)(F)F | C7H8F6O
